US05840732
ii) Synthesis of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-yl)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.08 g (3.14 mmol) of 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-yl)butyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.4 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.10 g (92.3%, yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-yl)butyl]thiazolidine-2,4-dione | 3.14 mmol, 1.08 g | C(CCC)=C1C(N(C(S1)=O)CCCCC1=CC=CC=2N1C=CN2)=O | C18H21N3O2S
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-butylidene-3-[4-(imidazo[1,2-a]pyridin-5-yl)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCC1=CC=CC=2N1C=CN2)=O | InChI=1S/C18H21N3O2S.ClH/c1-2-3-9-15-17(22)21(18(23)24-15)12-5-4-7-14-8-6-10-16-19-11-13-20(14)16;/h6,8-11,13H,2-5,7,12H2,1H3;1H
